US04304770
Ethyl2-hydroxyimino-3-oxobutyrate (syn isomer, 40.0 g.), 4-fluorobenzyl chloride (43.6 g.), N,N-dimethylformamide (60.0 ml), potassium carbonate (52.0 g.) and ethyl acetate (60.0 ml.) were treated in a conventional manner to give ethyl 2-(4-fluorobenzyloxyimino)-3-oxobutyrate (syn isomer, 64.4 g.).

reactant | Ethyl2-hydroxyimino-3-oxobutyrate | 40.0 g | C(C)OC(C(C(C)=O)=NO)=O | C6H9NO4
reactant | 4-fluorobenzyl chloride | 43.6 g | FC1=CC=C(CCl)C=C1 | C7H6ClF
reactant | N,N-dimethylformamide | 60.0 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 52.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 60.0 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(4-fluorobenzyloxyimino)-3-oxobutyrate | 64.4 g | FC1=CC=C(CON=C(C(=O)OCC)C(C)=O)C=C1 | C13H14FNO4
